US04352818
A mixture of 3.11 g (9.72 mmol) of ethyl 7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate, 10 ml of ethanol, 2 ml of water and 400 mg of sodium hydroxide is heated to boiling under reflux for 1 hour. After evaporation of the ethanol, the residue is treated with 10 ml of 1 N hydrochloric acid. The colourless material obtained is filtered off under suction, washed with water and dried. There is obtained 7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid with a decomposition point of 283°-284°.

reactant | ethyl 7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate | 9.72 mmol, 3.11 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C(=O)OCC)C)=O | C15H14ClN3O3
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 400 mg | [OH-].[Na+]
solvent | water | 2 ml | O | H2O
product | 7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C(=O)O)C)=O | C13H10ClN3O3
